US04273782
A 40% solution of benzyltrimethylammonium hydroxide in methanol (0.5 ml) was added to a suspension of 3-(1-imidazolylmethyl) indole (1.97 g) in dioxan (25 ml) containing acrylonitrile (2.0 ml) to give a clear solution. The solution was heated to 50°-60° C. for 30 minutes and then allowed to cool and stand overnight at room temperature. It was then poured into water and the mixture was extracted with ethyl acetate (3×50 ml). The combined extracts were washed with water and dried (Na2SO4). Evaporation of the solvent gave 1-cyanoethyl-3-(1-imidazolylmethyl)indole (2.50 g) as an oil.

reactant | benzyltrimethylammonium hydroxide | [OH-].C(C1=CC=CC=C1)[N+](C)(C)C
reactant | 3-(1-imidazolylmethyl) indole | 1.97 g | N1C(=NC=C1)CC1=CNC2=CC=CC=C12 | C12H11N3
reactant | acrylonitrile | 2.0 ml | C(C=C)#N | C3H3N
reactant | water | O | H2O
solvent | methanol | 0.5 ml | CO | CH4O
solvent | dioxan | 25 ml | O1CCOCC1 | C4H8O2
product | 1-cyanoethyl-3-(1-imidazolylmethyl)indole | 2.50 g | C(#N)C(C)C=1NC2=CC=CC=C2C1CC=1NC=CN1 | C15H14N4
